US04709081
2.42 g. (0.01 mole) of 3-phenoxybenzyl acetate, 10 cm3. of methanol, 10 cm3. of water and 0.2 g. of acid ion exchange resin (Nafion H) are refluxed with stirring for nine hours. After cooling the reaction mixture is filtered off and evaporated. The residue is dissolved in 30 cm3. of methylene chloride, washed with 10 cm3. of 1N sodium hydroxide solution and 10 cm3. of water then evaporated. 1.8 g. of 3-phenoxybenzyl alcohol are obtained. nD20 : 1.593, yield 90%.

reactant | 3-phenoxybenzyl acetate | 0.01 mole | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-phenoxybenzyl alcohol | yield 90% | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
